US05620997
6-Dimethylamino-2-(2-piperidin-1-yl-ethyl)-isothiazolo [5,4-d]pyrimidin-3-one
Using the procedure of Example 20, 6.2 g (20.1 mmol) of 2-dimethylamino-4-mercapto-pyrimidine-5-carboxylic acid (2-piperidin-1-yl-ethyl)-amide were treated with 5.08 g (20.0 mmol) of iodine to give 5.31 g of the title compound after recrystallization from ethyl acetate, mp 128°-129° C.

reactant | 2-dimethylamino-4-mercapto-pyrimidine-5-carboxylic acid (2-piperidin-1-yl-ethyl)-amide | 20.1 mmol, 6.2 g | N1(CCCCC1)CCNC(=O)C=1C(=NC(=NC1)N(C)C)S | C14H23N5OS
reactant | iodine | 20.0 mmol, 5.08 g | II | I2
product | 6-Dimethylamino-2-(2-piperidin-1-yl-ethyl)-isothiazolo [5,4-d]pyrimidin-3-one | 5.31 g | CN(C1=NC=C2C(=N1)SN(C2=O)CCN2CCCCC2)C | C14H21N5OS
